US04053651
Nα-(3-Mercaptopropanoyl)-L-arginine
Nα-(3-benzoylthiopropanoyl)-L-arginine (1 g.) is dissolved with vigorous stirring in a mixture of water (5 ml.) and concentrated ammonia (5 ml.). After one hour, the solution is extracted with ethyl acetate and concentrated to dryness in vacuo. The residue is chromatographed on a column of DEAE Sephadex [anion exchange resin derived from dextran (Mikes, supra, page 328)] (85 ml.) with a buffer of 0.005 M ammonium bicarbonate. The fractions containing the Nα-(3-mercaptoproanoyl)-L-arginine (as indicated by positive thiol and Sakaguchi Reaction) are pooled and lyophilized to remove ammonium bicarbonate, yield 200 mg., m.p. 230° (starts decomposing at 200°).

reactant | Nα-(3-benzoylthiopropanoyl)-L-arginine | 1 g | C(C1=CC=CC=C1)(=O)SCCC(=O)N[C@@H](CCCNC(N)=N)C(=O)O | C16H22N4O4S
reactant | ammonia | 5 ml | N | H3N
solvent | water | 5 ml | O | H2O
product | Nα-(3-Mercaptopropanoyl)-L-arginine | SCCC(=O)N[C@@H](CCCNC(N)=N)C(=O)O | C9H18N4O3S
